US06057369
7-Phenyl-3-phenylsulfanylheptanoic acid (2 g; 6.5 mmol) is dissolved in CH2Cl2 (20 mL) and cooled to 0° C. Oxalyl chloride (1.1 mL, 13 mmol) is added dropwise, the bath removed and the reaction allowed to warm and stir at 20° C. for 2 hours. The reaction is then concentrated in vacuo and azeotroped with CH2Cl2. The resulting oil is dissolved in CH2Cl2 (20 mL), cooled to 0° C. and O-(trimethylsilyl)hydroxylamine (1.7 g, 16 mmol) is added dropwise. The bath is removed and the reaction is allowed to warm to 20° C. The reaction is then partitioned between CH2Cl2 (100 mL) and 1 N HCl (50 mL), the organic layer is then separated and washed with water (40 mL), dried (MgSO4) and concentrated in vacuo to yield 7-phenyl-3-phenylsulfanylheptanoic acid hydroxyamide.

reactant | 7-Phenyl-3-phenylsulfanylheptanoic acid | 6.5 mmol, 2 g | C1(=CC=CC=C1)CCCCC(CC(=O)O)SC1=CC=CC=C1 | C19H22O2S
reactant | Oxalyl chloride | 13 mmol, 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-(trimethylsilyl)hydroxylamine | 16 mmol, 1.7 g | C[Si](ON)(C)C | C3H11NOSi
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-phenyl-3-phenylsulfanylheptanoic acid hydroxyamide | ONC(CC(CCCCC1=CC=CC=C1)SC1=CC=CC=C1)=O | C19H23NO2S
